US09120776B2
N-(4-cyanophenyl)-N′-(9-ethyl-2,3,4,9-tetrahydro-1H-carbazol-6-yl)-3-methylpentanediamide
To a solution of 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid (172 mg, 0.70 mmol), 9-ethyl-2,3,4,9-tetrahydro-1H-carbazol-6-amine (150 mg, 0.70 mmol) and DIEA (0.367 mL, 2.10 mmol) in DMF (8 mL) was added HATU (399 mg, 1.05 mmol), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was separated, washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 100% ethyl acetate/hexane) to give the title compound (179 mg, 0.404 mmol, 57.8%) as a white powder.

reactant | 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid | 0.70 mmol, 172 mg | C(#N)C1=CC=C(C=C1)NC(CC(CC(=O)O)C)=O | C13H14N2O3
reactant | 9-ethyl-2,3,4,9-tetrahydro-1H-carbazol-6-amine | 0.70 mmol, 150 mg | C(C)N1C2=CC=C(C=C2C=2CCCCC12)N | C14H18N2
reactant | DIEA | 2.10 mmol, 0.367 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.05 mmol, 399 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-cyanophenyl)-N′-(9-ethyl-2,3,4,9-tetrahydro-1H-carbazol-6-yl)-3-methylpentanediamide | 0.404 mmol, 179 mg, 57.8% | C(#N)C1=CC=C(C=C1)NC(CC(CC(=O)NC=1C=C2C=3CCCCC3N(C2=CC1)CC)C)=O | C27H30N4O2
